US07582645B2
To a solution of ethyl (4-nitrophenyl)acetate (760 mg, 3.6 mmol) in DMF (10 mL) was added 60% sodium hydride (145 mg, 3.6 mmol). The deep purple reaction mixture was stirred at rt for 30 min, then 4-fluoro-2-trifluoromethyl-pyridine (500 mg, 3.0 mmol) was added. After heating at 70° C. for 2 h, the mixture was poured onto ice water and extracted with ethyl acetate. The organic layers were washed with water and brine, then dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography, eluting with 10-30% ethyl acetate in hexanes, to give (4-nitro-phenyl)-(2-trifluoromethyl-pyridin-4-yl)-acetic acid ethyl ester as a viscous yellow oil (440 mg, 41%). 1H NMR (CHCl3-d) δ 8.70 (d, J=5.1 Hz, 1H), 8.23 (m, 2H), 7.63 (m, 1H), 7.50 (m, 2H), 7.44 (dd, J=5.0, 1.6 Hz, 1H), 5.15 (s, 1H), 4.27 (q, J=7.0 Hz, 2H), 1.30 (t, J=7.1 Hz, 3H).

reactant | ethyl (4-nitrophenyl)acetate | 3.6 mmol, 760 mg | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | sodium hydride | 3.6 mmol, 145 mg | [H-].[Na+]
reactant | 4-fluoro-2-trifluoromethyl-pyridine | 3.0 mmol, 500 mg | FC1=CC(=NC=C1)C(F)(F)F | C6H3F4N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (4-nitro-phenyl)-(2-trifluoromethyl-pyridin-4-yl)-acetic acid ethyl ester | 440 mg, 41% | C(C)OC(C(C1=CC(=NC=C1)C(F)(F)F)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H13F3N2O4
